US07833939B2
33 ml of titanium tetrachloride (a 2 moles/liter dichloromethane solution, 66.0 mmoles) was dropwise added, at 10° C. with ice-cooling, to a solution of 5.0 g (32.4 mmoles) of 3-acetyl-2,5-dichlorothiophene dissolved in 26 ml (323.0 mmoles) of chloromethyl methyl ether. The mixture was stirred at room temperature for 2 hours to give rise to a reaction. After the completion of the reaction, the reaction mixture was poured into ice water, followed by extraction with chloroform. The resulting organic layer was washed with sodium bicarbonate, water and an aqueous sodium chloride solution in this order and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein. The residue was purified by silica gel column chromatography (developing solvent: hexane/ethyl acetate=9/1) to obtain 2.6 g (yield: 39.7%) of 3-acetyl-4-chloromethyl-2,5-dichlorothiophene as yellow crystals.

reactant | 3-acetyl-2,5-dichlorothiophene | 32.4 mmoles, 5.0 g | C(C)(=O)C1=C(SC(=C1)Cl)Cl | C6H4Cl2OS
reactant | chloromethyl methyl ether | 323.0 mmoles, 26 ml | COCCl | C2H5ClO
catalyst | titanium tetrachloride | 33 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | dichloromethane | 2 moles/liter | ClCCl | CH2Cl2
product | 3-acetyl-4-chloromethyl-2,5-dichlorothiophene | 2.6 g, yield: 39.7% | C(C)(=O)C1=C(SC(=C1CCl)Cl)Cl | C7H5Cl3OS
